US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-[3-(N-methylamino)carbonylmethyleneoxyphenyl]-2,4-pyrimidinediamine, 5-fluoro-N4-(3-hydroxyphenyl)-N2-(2-methoxycarbonylbenzofuran-5-yl)-2,4-pyrimidinediamine and 2-amino-2-methylpropanol were reacted to yield 5-fluoro-N2-[2-(2-hydroxy-1,1-dimethylethylamino)carbonylbenzofuran-5-yl]-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.41 (s, 1H), 9.28 (s, 1H), 9.22 (s, 1H), 8.18 (t, 1H, J=2.4, Hz), 8.09 (d, 1H, J=3.6 Hz), 7.56 (dd, 1H, J=2.4 and 8.7 Hz), 7.47 (d, 1H, J=8.7 Hz), 7.32 (s, 1H), 7.26–7.21 (m, 1H), 7.13–7.07 (m, 2H), 6.53 (d, 1H, J=8.7 Hz), 5.05 (t, 1H, J=5.7 Hz), 3.46 (d, 2H, J=5.7 Hz), 1.32 (s, 6H); LCMS: ret. time: 17.93 min.; purity: 97%; MS (m/e): 452 (MH+).

reactant | 5-fluoro-N4-(3-hydroxyphenyl)-N2-(2-methoxycarbonylbenzofuran-5-yl)-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC=1C=CC2=C(C=C(O2)C(=O)OC)C1)NC1=CC(=CC=C1)O | C20H15FN4O4
reactant | 2-amino-2-methylpropanol | NC(CO)(C)C | C4H11NO
product | 5-fluoro-N2-[2-(2-hydroxy-1,1-dimethylethylamino)carbonylbenzofuran-5-yl]-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC=1C=CC2=C(C=C(O2)C(=O)NC(CO)(C)C)C1)NC1=CC(=CC=C1)O | C23H22FN5O4
